US05393732
A stirred solution of E-1-bromo-3(1-trityl-1,2,4-triazol-3-yl)prop-2-ene) (34.47 g, prepared as described in Example 12) in dry dichloromethane (150 ml) was treated, under nitrogen, with tetrabutylammonium fluoride (160 ml, 1M in tetrahydrofuran). The mixture was heated under reflux for thirty minutes, cooled, washed with water (3×100 ml), dried over magnesium sulphate and evaporated under reduced pressure. The residue was chromatographed on silica, using dichloromethane-ether (25:2) as eluant, to give E-1-fluoro-3(1-trityl-1,2,4-triazol-3-yl)prop-2-ene (19.37 g, m.p. 149° C.). NMR (CDCl3): δ4.95, 5.15(2H,dd), 6.7-6.9(2H,m), 7.1-7.3(15H,m), 7.9(1H,s). JCH=CH 16.1 Hz, JHF 46.8 Hz. 19F NMR (CDCl3): -216.4 ppm vs. CFCl3.

reactant | E-1-bromo-3(1-trityl-1,2,4-triazol-3-yl)prop-2-ene | BrC\C=C\C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20BrN3
reactant | tetrabutylammonium fluoride | 1M, 160 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | E-1-fluoro-3(1-trityl-1,2,4-triazol-3-yl)prop-2-ene | 19.37 g | FC\C=C\C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20FN3
